US08389717B2
6-Chloro-N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N,N′-dimethyl-[1,3,5]triazine-2,4-diamine
(4-Chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine (800 mg, 3.94 mmol) was dissolved in 10 ml of methanol and cooled in an ice-bath. Triethylamine (0.6 ml, 4.33 mmol) was added, followed by (4,6-dichloro-[1,3,5]triazin-2-yl)-dimethyl-amine (760 mg, 3.94 mmol; Chem. Pharm. Bull. 45, 291 (1997)). The resulting slurry was stirred for 1 hour at 0° C. and filtered, to give the title compound as a slightly brownish solid in 57% yield.

reactant | (4-Chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 3.94 mmol, 800 mg | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | Triethylamine | 4.33 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | (4,6-dichloro-[1,3,5]triazin-2-yl)-dimethyl-amine | 3.94 mmol, 760 mg | ClC1=NC(=NC(=N1)Cl)N(C)C | C5H6Cl2N4
solvent | methanol | 10 ml | CO | CH4O
product | 6-Chloro-N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N,N′-dimethyl-[1,3,5]triazine-2,4-diamine | 57% yield | ClC1=NC(=NC(=N1)N(C)C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)NC | C16H18ClN7O
